US08110687B2
To a solution of 4-{[7-({[3-(aminomethyl)-5-(trifluoromethyl)phenyl]amino}-carbonyl)-5,6,7,8-tetrahydronaphthalen-2-yl]oxy}-N-methylpyridine-2-carboxamide (0.459 g, 0.921 mmol) in DMF (10 mL) was added 2-bromoethanol (0.100 mL, 1.41 mmol) and TEA (0.300 mL, 2.15 mmol). The reaction mixture was allowed to stir at rt overnight, and then diluted with water. The mixture was extracted with EtOAc and the combined organic solutions were washed with 10% aqueous LiCl, dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography to give 4-{[7-({[3-{[(2-hydroxyethyl)amino]methyl}-5-(trifluoromethyl)phenyl]amino}carbonyl)-5,6,7,8-tetrahydronaphthalen-2-yl]oxy}-N-methylpyridine-2-carboxamide I-276 (0.352 g, 71%) as a white solid. 1H NMR (400 MHz, d6-DMSO, HCl salt) δ: 10.65 (s, 1H), 9.19-9.09 (br s, 1H), 8.85-8.77 (m, 1H), 8.50 (d, 1H), 8.17-8.02 (m, 2H), 7.66 (s, 1H), 7.41-7.36 (m, 1H), 7.28-7.21 (m, 1H), 7.19-7.14 (m, 1H), 7.04-6.94 (m, 2H), 4.22 (t, 2H), 3.83-3.76 (m, 2H), 3.67 (t, 2H), 3.03-2.81 (m, 5H), 2.77 (d, 3H), 2.17-2.08 (m, 1H), and 1.89-1.75 (m, 1H). LCMS: (FA) ES+543.2, ES−541.2.

reactant | 4-{[7-({[3-(aminomethyl)-5-(trifluoromethyl)phenyl]amino}-carbonyl)-5,6,7,8-tetrahydronaphthalen-2-yl]oxy}-N-methylpyridine-2-carboxamide | 0.921 mmol, 0.459 g | NCC=1C=C(C=C(C1)C(F)(F)F)NC(=O)C1CCC=2C=CC(=CC2C1)OC1=CC(=NC=C1)C(=O)NC | C26H25F3N4O3
reactant | 2-bromoethanol | 1.41 mmol, 0.100 mL | BrCCO | C2H5BrO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-{[7-({[3-{[(2-hydroxyethyl)amino]methyl}-5-(trifluoromethyl)phenyl]amino}carbonyl)-5,6,7,8-tetrahydronaphthalen-2-yl]oxy}-N-methylpyridine-2-carboxamide | OCCNCC=1C=C(C=C(C1)C(F)(F)F)NC(=O)C1CCC=2C=CC(=CC2C1)OC1=CC(=NC=C1)C(=O)NC | C28H29F3N4O4
